US08445501B2
1-(4-Cyclopropylmethoxy-2-methyl-phenyl)-ethanone
Starting from commercially available 1-(4-hydroxy-2-methyl-phenyl)-ethanone and bromomethyl-cyclopropane the title compound is obtained as pale yellow oil.

reactant | 1-(4-hydroxy-2-methyl-phenyl)-ethanone | OC1=CC(=C(C=C1)C(C)=O)C | C9H10O2
reactant | bromomethyl-cyclopropane | BrCC1CC1 | C4H7Br
product | 1-(4-Cyclopropylmethoxy-2-methyl-phenyl)-ethanone | C1(CC1)COC1=CC(=C(C=C1)C(C)=O)C | C13H16O2
